US07687508B2
A sample of benzyl (S)-1-((1S,2R,4R)-2-acetamido-4-((4-methoxybenzyl)(methyl)amino)cyclohexyl)-2-oxopyrrolidin-3-ylcarbamate (25.0 g, 47.8 mmol) was dissolved in MeOH. The flask was charged with dihydroxypalladium (6 g, 8.54 mmol), evacuated, and back filled with hydrogen from a hydrogen balloon. The mixture was stirred at RT overnight and then filtered (3×80 mL isopropanol washes). The residue was concentrated under high vacuum to dryness. The residue was dried azeotropically with iso-propanol (4×150 mL) under reduced pressure to afford N-((1R,2S,5R)-2-((S)-3-amino-2-oxopyrrolidin-1-yl)-5-(methylamino)cyclohexyl)acetamide (12.5 g, 46.6 mmol, 97% yield). LC/MS found [M+H]+=269.

reactant | benzyl (S)-1-((1S,2R,4R)-2-acetamido-4-((4-methoxybenzyl)(methyl)amino)cyclohexyl)-2-oxopyrrolidin-3-ylcarbamate | 47.8 mmol, 25.0 g | C(C)(=O)N[C@H]1[C@H](CC[C@H](C1)N(C)CC1=CC=C(C=C1)OC)N1C([C@H](CC1)NC(OCC1=CC=CC=C1)=O)=O | C29H38N4O5
solvent | MeOH | CO | CH4O
catalyst | dihydroxypalladium | 8.54 mmol, 6 g | O[Pd]O
product | N-((1R,2S,5R)-2-((S)-3-amino-2-oxopyrrolidin-1-yl)-5-(methylamino)cyclohexyl)acetamide | 46.6 mmol, 12.5 g, 97% yield | N[C@@H]1C(N(CC1)[C@@H]1[C@@H](C[C@@H](CC1)NC)NC(C)=O)=O | C13H24N4O2
